US07943613B2
Methyl (Z)-[4-[3-(4-Fluorophenyl)-3-(4-iodophenyl)allyloxy]-2-methylphenoxy]acetate (400 mg, 0.75 mmol; example 10 was dissolved in a mixture of anhydrous tetrahydrofuran (10 mL) and anhydrous triethylamine (20 mL). The solution was degassed and a solution of N,N-dimethylpropargylamine (125 mg, 1.50 mmol) in anhydrous tetrahydrofuran (2 mL) was added under inert atmosphere. The resulting solution was degassed once more, copper(I) iodide (23 mg, 0.12 mmol) and tetrakis(triphenylphosphine)palladium (70 mg, 0.06 mmol) were added and the mixture was degassed again. The reaction mixture was stirred at ambient temperature overnight and the resulting suspension was filtered through a paddle of silica gel. Silica gel was washed thoroughly with ethyl acetate; the filtrate was evaporated in vacuo and the residue was dissolved in dichloromethane (50 mL). The solution was washed with water (2×30 mL) and brine (2×30 mL), dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography (silica gel Fluka 60, dichloromethane/methanol 99:1) yielding methyl (E)-[4-[3-[4-[3-(dimethylamino)propynyl)phenyl]-3-(4-fluorophenyl)allyloxy]-2-methylphenoxy]acetate as yellow oil.

reactant | Methyl (Z)-[4-[3-(4-Fluorophenyl)-3-(4-iodophenyl)allyloxy]-2-methylphenoxy]acetate | FC1=CC=C(C=C1)/C(=C/COC1=CC(=C(OCC(=O)OC)C=C1)C)/C1=CC=C(C=C1)I | C25H22FIO4
reactant | N,N-dimethylpropargylamine | 1.50 mmol, 125 mg | CN(C)CC#C | C5H9N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 20 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
catalyst | copper(I) iodide | 0.12 mmol, 23 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 0.06 mmol, 70 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl (E)-[4-[3-[4-[3-(dimethylamino)propynyl)phenyl]-3-(4-fluorophenyl)allyloxy]-2-methylphenoxy]acetate | CN(CC#CC1=CC=C(C=C1)\C(=C/COC1=CC(=C(OCC(=O)OC)C=C1)C)\C1=CC=C(C=C1)F)C | C30H30FNO4
